US04148998
2-Aminopentanoic acid (0.2 mole) is added to a solution of sodium acetate (0.2 mole) in about 300 ml of glacial acetic acid. This solution is heated to effect solution and is then refluxed for 5 minutes. To the refluxing solution is added (0.2 mole) 2.5-dimethoxytetrahydrofuran as quickly as possible. The mixture is refluxed for a further 2 minutes and the acetic acid is flash evaporated. The residue is taken up in ethyl acetate, washed with water, dried and the solvent removed under vacuo to give 2-(1-pyrryl)pentanoic acid.

reactant | 2-Aminopentanoic acid | 0.2 mole | NC(C(=O)O)CCC | C5H11NO2
reactant | sodium acetate | 0.2 mole | C(C)(=O)[O-].[Na+]
reactant | 2.5-dimethoxytetrahydrofuran | 0.2 mole | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | about 300 ml | C(C)(=O)O | C2H4O2
product | 2-(1-pyrryl)pentanoic acid | N1(C=CC=C1)C(C(=O)O)CCC | C9H13NO2
